US06797718B2
2,3-dimethyl-5-nitro-6-phenoxy-N-(2-phenoxyethyl)pyridin-4-amine
2-Methoxyethyl ether (diglyme) (3 ml) and sodium hydride (60% in oil) (0.56 g) were combined and cooled to 0° C. Phenol (1.24 g) was added slowly in portions to allow for controlled release of hydrogen gas. A solution of 2-chloro-5,6-dimethyl-3-nitro-N-(2-phenoxyethyl)pyridin-4-amine (4.00 g) and diglyme (37 ml) was then added and the reaction mixture was heated to 150° C. for 16 hours. At this time, the reaction stalled at 85% completion. The reaction mixture was allowed to cool and the solvent was removed under reduced pressure. The oil was dissolved in ethyl acetate, washed with water, dried with magnesium sulfate, and concentrated under reduced pressure. The product was run through a column using 20/80 ethyl acetate/hexane as the eluant. HPLC analysis of the resulting orange solid indicated sufficient purity for use in the next step.

reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | Phenol | 1.24 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-5,6-dimethyl-3-nitro-N-(2-phenoxyethyl)pyridin-4-amine | 4.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOC1=CC=CC=C1)C)C | C15H16ClN3O3
solvent | diglyme | 37 ml | COCCOCCOC | C6H14O3
solvent | 2-Methoxyethyl ether | 3 ml | COCCOCCOC | C6H14O3
product | 2,3-dimethyl-5-nitro-6-phenoxy-N-(2-phenoxyethyl)pyridin-4-amine | CC1=NC(=C(C(=C1C)NCCOC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H21N3O4
